US04908386
6-[[3-[4-(1-Piperidinyl)phenyl]-2-propynyl]oxy]hexanol
A mixture of 1-(4-iodophenyl)piperidine (1.5 g), 6-[(2-propynyl)oxy]-1-hexanol (820 mg), BTPC (35 mg) and copper (I) iodide (20 mg) in diethylamine (30 ml) under nitrogen, was stired at room temperature overnight. The solvent was evaporated and the residue was partitioned between EA (50 ml) and 8% aqueous sodium bicarbonate (50 ml). The organic layer was washed with water and brine, dried and concentrated to a dark oil which was purified by FCC eluting with ER to give the title compound as an orange oil (1.2 g), t.l.c. (ER) Rf 0.70.

reactant | 1-(4-iodophenyl)piperidine | 1.5 g | IC1=CC=C(C=C1)N1CCCCC1 | C11H14IN
reactant | 6-[(2-propynyl)oxy]-1-hexanol | 820 mg | C(C#C)OCCCCCCO | C9H16O2
solvent | diethylamine | 30 ml | C(C)NCC | C4H11N
catalyst | copper (I) iodide | 20 mg | [Cu]I
product | 6-[[3-[4-(1-Piperidinyl)phenyl]-2-propynyl]oxy]hexanol | 1.2 g | N1(CCCCC1)C1=CC=C(C=C1)C#CCOCCCCCCO | C20H29NO2
